US20010003121A1
2-Chloro-5-fluoro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
Prepared according to the method of Example 41 from 1-adamantanemethylamine (0.1 ml) and 2-chloro-5-fluorobenzoic acid (0.098 g) to give the title compound as a white solid (0.165 g).

reactant | 1-adamantanemethylamine | 0.1 ml | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 2-chloro-5-fluorobenzoic acid | 0.098 g | ClC1=C(C(=O)O)C=C(C=C1)F | C7H4ClFO2
product | 2-Chloro-5-fluoro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.165 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)F | C18H21ClFNO
